Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
adhesive tape / ondansetron
 
Attending: ___.
 
Chief Complaint:
R parietal brain mass
 
Major Surgical or Invasive Procedure:
___ Right Craniotomy and resection of tumor (Dr. ___ 

 
History of Present Illness:
___ y/o female with a PMH significant for h/o Breast CA, s/p
lumpectomy x2, s/p mastectomy s/p RUL wedge rxn x2, most recent
in ___, found to have right brain lesion on work up of 
headache. She presented for elective craniotomy for resection. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: RUL wedge resection of RUL metastatic nodule

PAST MEDICAL HISTORY: 
1.  Right breast cancer diagnosed at age ___ with recurrent
metastatic disease
2.  Hypercholesterolemia
3.  Four cycles of Cytoxan and Adriamycin followed by four 
cycles
of Taxol
4.  Radiation therapy to the breast followed by ___ years of
tamoxifen
5.  Early menopause

 
Social History:
___
Family History:
Her family history is  positive in a sister diagnosed at age ___ 
with breast cancer who is alive and well at ___.  Her mother had 
lung cancer, was a ___ and died at ___ in ___.  Her 
father died at age ___. She has one sister ___ and a brother ___.

 
Physical Exam:
Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils: PERRL 4-3mm              EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]No Tongue Midline: [x]Yes [ ]No

Pronator Drift: [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact: [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Wound: Closed with staples; clean, dry and intact. 

 
Pertinent Results:
please see OMR for pertinent results 
 
Brief Hospital Course:
#Brain tumor
Patient was taken to the OR on ___ with Dr. ___ underwent 
craniotomy for tumor resection. Procedure was uncomplicated; 
please see operative report for full details. She was started on 
keppra x1 week and decadron 3 day taper to off. Postop head CT 
showed expected postop changes and no acute complications. She 
was transferred to the ___ and on POD#1 made floor status. 
Postop MRI showed improved shift and no evidence of residual 
tumor. She worked with ___ and was cleared for discharge home 
with services. She was cleared for discharge on POD#4. At time 
of discharge pain was well controlled on oral medication, she 
was ambulating with cane, and tolerating PO diet. 

#Delirium
Patient had episode of anxiety and feeling like the floor was 
shaking on POD#3. Psych was consulted and she was started on 
Zyprexa with improvement. Home Ambien was held. She was 
discharged on Zyprexa qHS PRN x1 week and will follow up with 
her outpatient psychiatrist this week. 
 
Medications on Admission:
Duloxetine 60mg daily; metoprolol XL 50mg; Simvastatin 40mg; 
Valsartan 40mg; Vitamin E 400 daily; Zolpidem 5 QHS

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN fever or pain  
2.  Docusate Sodium 100 mg PO BID  
3.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth every 12 hours 
Disp #*7 Tablet Refills:*0 
4.  OLANZapine 2.5 mg PO QHS:PRN anxiety/insomnia 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth nightly Disp #*7 
Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 8 hours Disp #*20 
Tablet Refills:*0 
6.  Senna 17.2 mg PO QHS  
7.  DULoxetine 60 mg PO DAILY  
8.  Metoprolol Succinate XL 50 mg PO DAILY  
9.  Simvastatin 20 mg PO QPM  
10.  Valsartan 40 mg PO DAILY  
11.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right Parietal Brain Mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions
Brain Tumor

Surgery
-  You underwent surgery to remove a brain lesion from your 
brain.  
-  You may shower at this time but keep your incision dry. 
-  Please keep your incision dry until your staples are removed. 

-  Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 
-  Final pathology will be discussed at your follow up 
appointment. 

Activity
-  We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
-  You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
-  No driving while taking any narcotic or sedating medication. 

Medications
-  Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
- You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction, for 1 
week postoperatively. It is important that you take this 
medication consistently and on time. 
-  You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
-  Your Ambien was held postoperatively. You were started on 
olanzapine 2.5mg prn for anxiety/insomnia, which was recommended 
by our psychiatrist. You may take this every night as needed. 
Please follow up with your outpatient psychiatrist to re-assess 
medications this week. 

What You ___ Experience:
-  You may experience headaches and incisional pain. 
-  You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
-  You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
-  Feeling more tired or restlessness is also common.
-  Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
-  Severe pain, swelling, redness or drainage from the incision 
site. 
-  Fever greater than 101.5 degrees Fahrenheit
-  Nausea and/or vomiting
-  Extreme sleepiness and not being able to stay awake
-  Severe headaches not relieved by pain relievers
-  Seizures
-  Any new problems with your vision or ability to speak
-  Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
-  Sudden numbness or weakness in the face, arm, or leg
-  Sudden confusion or trouble speaking or understanding
-  Sudden trouble walking, dizziness, or loss of balance or 
coordination
-  Sudden severe headaches with no known reason
 
Followup Instructions:
___